US07915270B2
1-(5-(4-Nitropyridin-2-yl)oxazol-2-yl)-7-phenylheptan-1-one
2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)-5-(4-nitropyridin-2-yl)oxazole. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (190 mg, 0.287 mmol) and 2-chloro-4-nitropyridine following General Procedure A. Flash chromatography (10% EtOAc/hexanes) yielded the title compound as a thick oil (98 mg, 66%): 1H NMR (CDCl3, 400 MHz) δ 8.91 (dd, 1H, J=5.3, 0.6 Hz), 8.33 (d, 1H, J=2.1), 7.93 (dd, 1H, J=5.3, 2.1 Hz), 7.78 (s, 1H), 7.28-7.24 (m, 2H), 7.18-7.15 (m, 3H), 4.90 (dd, 1H, J=7.3, 5.8 Hz), 2.60 (t, 2H, J=7.8 Hz), 1.96 (m, 2H), 1.62 (m, 2H), 1.36 (m, 4H), 0.92 (s, 9H), 0.12 (s, 3H), 0.03 (s, 3H); 13C NMR (CDCl3, 100 MHz) δ 166.9, 154.6, 152.2, 150.1, 149.1, 142.7, 128.3, 128.2, 127.5, 125.5, 114.8, 111.4, 68.7, 36.4, 35.9, 31.3, 29.1, 25.7, 25.7, 25.0, 18.2, −5.0, −5.1.

reactant | 2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)-5-(4-nitropyridin-2-yl)oxazole | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=NC=CC(=C1)[N+](=O)[O-] | C27H37N3O4Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.287 mmol, 190 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 2-chloro-4-nitropyridine | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
product | 1-(5-(4-Nitropyridin-2-yl)oxazol-2-yl)-7-phenylheptan-1-one | 98 mg, 66% | [N+](=O)([O-])C1=CC(=NC=C1)C1=CN=C(O1)C(CCCCCCC1=CC=CC=C1)=O | C21H21N3O4
